US07273875B2
Potassium {4-[8-(3-cyano-phenyl)[1,7] naphthyridin-6-yl]-cyclohexyloxy}-acetate
Potassium carbonate (10.1 mg, 0.074 mmol) in water (1 ml) is added to a solution of {4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]cyclohexyloxy}-acetic acid (59 mg, 0.15 mmol) in methanol (6 ml). The reaction mixture is stirred at room temperature for 30 minutes, filtered and concentrated. The product is lyophilised from water (×3) then dried at 40° C. in vacuo for 18 hours. Recrystallisation from CH2Cl2/ether gives the product. m.p 148-150° C. (decomp.) MS (ES+) [M+H]+ 388.1635

reactant | Potassium carbonate | 0.074 mmol, 10.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | {4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]cyclohexyloxy}-acetic acid | 0.15 mmol, 59 mg | C(#N)C=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)C1CCC(CC1)OCC(=O)O | C23H21N3O3
solvent | water | 1 ml | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | Potassium {4-[8-(3-cyano-phenyl)[1,7] naphthyridin-6-yl]-cyclohexyloxy}-acetate | C(#N)C=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)C1CCC(CC1)OCC(=O)[O-].[K+] | InChI=1S/C23H21N3O3.K/c24-13-15-3-1-4-17(11-15)23-22-18(5-2-10-25-22)12-20(26-23)16-6-8-19(9-7-16)29-14-21(27)28;/h1-5,10-12,16,19H,6-9,14H2,(H,27,28);/q;+1/p-1
